### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Connectivity): getVert lemmas

### PR DESCRIPTION
**Pull request by pimotte**
Add some lemmas about `SimpleGraph.Walk.getVert`.

In preparation for Tutte's theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 1]
```diff
@@ -207,6 +207,17 @@ theorem adj_getVert_succ {u v} (w : G.Walk u v) {i : ℕ} (hi : i < w.length) :
     · simp [getVert, hxy]
     · exact ih (Nat.succ_lt_succ_iff.1 hi)
 
+@[simp]
+lemma cons_getVert_succ {u v w n} (p : G.Walk v w) (h : G.Adj u v) :
+    (Walk.cons h p).getVert n.succ = p.getVert n := rfl
```
Comment (semorrison) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:212]: Better to write `n + 1`, please.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 2]
```diff
@@ -183,6 +183,46 @@ lemma toSubgraph_le_induce_support (p : G.Walk u v) :
...
+  | cons hxy i' ih =>
+    cases i
+    · simp only [Walk.toSubgraph, Walk.getVert_zero, zero_add, cons_getVert_succ, Subgraph.sup_adj,
+      subgraphOfAdj_adj, true_or]
+    · simp only [Walk.toSubgraph, cons_getVert_succ, Subgraph.sup_adj, subgraphOfAdj_adj, Sym2.eq,
+      Sym2.rel_iff', Prod.mk.injEq, Prod.swap_prod_mk]
+      right
+      exact ih (Nat.succ_lt_succ_iff.mp hi)
+
+theorem getVert_adj_exists_of_toSubgraph_adj {u v u' v'} (w : G.Walk u v)
```
Comment (semorrison) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:199]: I'm suspicious of the naming here. Could you either rename or explain?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 3]
```diff
@@ -1208,6 +1230,31 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
...
+lemma getVert_tail_support_get {u v n} (p : G.Walk u v) (hnp: ¬ p.Nil) :
+    (p.tail hnp).getVert n = p.getVert (n + 1) :=
+  p.notNilRec (fun _ _ ↦ by simp only [cons_tail, cons_getVert_succ]) hnp
+
+@[simp]
+lemma cons_sndOfNotNil (q : G.Walk v w) (hadj : G.Adj u v) :
+    (Walk.cons hadj q).sndOfNotNil (not_nil_cons) = v := by
+  unfold sndOfNotNil; simp only [notNilRec_cons]
+
+lemma getVert_one (p : G.Walk u v) (hnp : ¬ p.Nil) : p.getVert 1 = p.sndOfNotNil hnp :=
```
Comment (semorrison) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1255]: Given this I'm confused why `sndOfNotNil` exists at all. It seems one should always just use `getVert 1`, and then the non-nil hypothesis is only needed in theorems.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean (hunk 1 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity.lean]: Fixed:)

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 2 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: I looked at it again and made it an `iff` statement instead which seems a bit clearer and also clears up the naming issue.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean (hunk 3 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1255]: This question is a little bit above my paygrade. My educated guess is that it makes it easier to write stuff like this: `lemma cons_tail_eq (p : G.Walk x y) (hp : ¬ p.Nil) : cons (p.adj_sndOfNotNil hp) (p.tail hp) = p`

@YaelDillies Do you have any insight?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 4]
```diff
@@ -207,6 +207,17 @@ theorem adj_getVert_succ {u v} (w : G.Walk u v) {i : ℕ} (hi : i < w.length) :
     · simp [getVert, hxy]
     · exact ih (Nat.succ_lt_succ_iff.1 hi)
 
+@[simp]
+lemma cons_getVert_succ {u v w n} (p : G.Walk v w) (h : G.Adj u v) :
+    (Walk.cons h p).getVert (n + 1) = p.getVert n := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:212]:
```suggestion
    (p.cons h).getVert (n + 1) = p.getVert n := rfl
```
and elsewhere

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 5]
```diff
@@ -207,6 +207,17 @@ theorem adj_getVert_succ {u v} (w : G.Walk u v) {i : ℕ} (hi : i < w.length) :
...
+
+lemma cons_getVert {u v w n} (p : G.Walk v w) (h : G.Adj u v) (hn : 0 < n) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:214]:
```suggestion
lemma cons_getVert {u v w n} (p : G.Walk v w) (h : G.Adj u v) (hn : n ≠ 0) :
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 6]
```diff
@@ -207,6 +207,17 @@ theorem adj_getVert_succ {u v} (w : G.Walk u v) {i : ℕ} (hi : i < w.length) :
...
+    (Walk.cons h p).getVert n = p.getVert (n - 1) := by
+  obtain ⟨i, hi⟩ : ∃ (i : ℕ), i.succ = n := by
+    use (n - 1); exact Nat.sub_one_add_one_eq_of_pos hn
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:217]:
```suggestion
    use n - 1; exact Nat.sub_one_add_one_eq_of_pos hn
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 7]
```diff
@@ -813,6 +830,11 @@ variable {x y : V} -- TODO: rename to u, v, w instead?
     (p.tail hp).support = p.support.tail := by
   rw [← cons_support_tail p hp, List.tail_cons]
 
+@[simp]
+lemma cons_tail {t u v}  (p : G.Walk u v) (h : G.Adj t u) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:834]: `tail` is the outermost function
```suggestion
lemma tail_cons {t u v} (p : G.Walk u v) (h : G.Adj t u) :
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 8]
```diff
@@ -1208,6 +1230,31 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
       exact ⟨d, List.Mem.tail _ hd, hcd⟩
     · exact ⟨⟨(x, y), a⟩, List.Mem.head _, uS, h⟩
 
+/-- Given a walk `w` and a node in the support, there exists a natural `n`, such that given node
+is the `n`-th node (zero-indexed) in the walk. In addition, `n` is at most the length of the path.
+Due to the definition of `getVert` it would otherwise be legal to return a larger `n` for the last
+node. -/
+theorem exists_getVert {u v w : V} (w : G.Walk v w) (h : u ∈ w.support) :
+    ∃ n, w.getVert n = u ∧ n ≤ w.length := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1238]: What about
```suggestion
theorem mem_support_iff_exists_getVert {u v w : V} {w : G.Walk v w} :
    u ∈ w.support ↔ ∃ n, w.getVert n = u ∧ n ≤ w.length := by
```

Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1238]: You have two things named `w`!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 9]
```diff
@@ -1208,6 +1230,31 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
...
+  obtain ⟨q, r, hqr⟩ := SimpleGraph.Walk.mem_support_iff_exists_append.mp h
+  use q.length
+  rw [hqr]
+  rw [Walk.getVert_append]
+  simp only [lt_self_iff_false, ↓reduceIte, Nat.sub_self, getVert_zero, length_append,
+    Nat.le_add_right, and_self]
+
+lemma getVert_tail_support_get {u v n} (p : G.Walk u v) (hnp: ¬ p.Nil) :
+    (p.tail hnp).getVert n = p.getVert (n + 1) :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1247]: Simply
```suggestion
lemma getVert_tail {u v n} (p : G.Walk u v) (hnp: ¬ p.Nil) :
    (p.tail hnp).getVert n = p.getVert (n + 1) :=
```
no?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 10]
```diff
@@ -183,6 +183,52 @@ lemma toSubgraph_le_induce_support (p : G.Walk u v) :
   convert Subgraph.le_induce_top_verts
   exact p.verts_toSubgraph.symm
 
+theorem toSubgraph_adj_getVert {u v} (w : G.Walk u v) {i : ℕ} (hi : i < w.length) :
+    (w.toSubgraph).Adj (w.getVert i) (w.getVert (i + 1)) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:187]:
```suggestion
    w.toSubgraph.Adj (w.getVert i) (w.getVert (i + 1)) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1255]: I actually agree with Kim here. The existence of `sndOfNotNil` is dubious.

You are very welcome to remove it, but another PR since it is out of scope for this one.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: There are other ones like that

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean (hunk 3 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1249]: Since you both agree it makes sense, I think this time would be a good time to do it, since I also have a lot of stuff lined up where I used `p.reverse.sndOfNotNil` and standardizing on `p.getVert (p.length - 1)` for that will probably simplify stuff a lot, so I'll put this on the backlog for me.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 10 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: I think I got them all:)

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 11]
```diff
@@ -813,6 +830,18 @@ variable {x y : V} -- TODO: rename to u, v, w instead?
     (p.tail hp).support = p.support.tail := by
   rw [← cons_support_tail p hp, List.tail_cons]
 
+@[simp]
+lemma tail_cons {t u v} (p : G.Walk u v) (h : G.Adj t u) :
+    (p.cons h).tail (Walk.not_nil_cons) = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:835]:
```suggestion
    (p.cons h).tail Walk.not_nil_cons = p := by
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 12]
```diff
@@ -183,6 +183,52 @@ lemma toSubgraph_le_induce_support (p : G.Walk u v) :
...
+        use 0
+        simp only [Walk.getVert_zero, zero_add, cons_getVert_succ]
+        refine ⟨?_, by simp only [length_cons, Nat.zero_lt_succ]⟩
+        simp only [Sym2.eq, Sym2.rel_iff', Prod.mk.injEq, Prod.swap_prod_mk]
+        cases hl with
+        | inl h1 => left; exact ⟨h1.1, h1.2⟩
+        | inr h2 => right; exact ⟨h2.1, h2.2⟩
+      | inr hr =>
+        obtain ⟨i, hi⟩ := (toSubgraph_adj_iff _).mp hr
+        use (i + 1)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:222]:
```suggestion
        use i + 1
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 13]
```diff
@@ -183,6 +183,52 @@ lemma toSubgraph_le_induce_support (p : G.Walk u v) :
...
+        simp only [cons_getVert_succ]
+        constructor
+        · exact hi.1
+        · simp only [Walk.length_cons, add_lt_add_iff_right, Nat.add_lt_add_right hi.2 1]
+  · rintro ⟨i, hi⟩
+    have := toSubgraph_adj_getVert _ hi.2
+    rw [← Subgraph.mem_edgeSet, ← hi.1, Subgraph.mem_edgeSet]
+    exact this
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:230]:
```suggestion
    rw [← Subgraph.mem_edgeSet, ← hi.1, Subgraph.mem_edgeSet]
    exact toSubgraph_adj_getVert _ hi.2
```
no?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 14]
```diff
@@ -183,6 +183,51 @@ lemma toSubgraph_le_induce_support (p : G.Walk u v) :
...
+    · simp only [Walk.toSubgraph, Walk.getVert_zero, zero_add, cons_getVert_succ, Subgraph.sup_adj,
+      subgraphOfAdj_adj, true_or]
+    · simp only [Walk.toSubgraph, cons_getVert_succ, Subgraph.sup_adj, subgraphOfAdj_adj, Sym2.eq,
+      Sym2.rel_iff', Prod.mk.injEq, Prod.swap_prod_mk]
+      right
+      exact ih (Nat.succ_lt_succ_iff.mp hi)
+
+theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
+    w.toSubgraph.Adj u' v' ↔ ∃ i, s(w.getVert i, w.getVert (i + 1)) =
+    s(u', v') ∧ i < w.length := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:201]:
```suggestion
      s(u', v') ∧ i < w.length := by
```
for clarity

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 15]
```diff
@@ -1208,6 +1237,51 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
       exact ⟨d, List.Mem.tail _ hd, hcd⟩
     · exact ⟨⟨(x, y), a⟩, List.Mem.head _, uS, h⟩
 
+lemma getVert_tail {u v n} (p : G.Walk u v) (hnp: ¬ p.Nil) :
+    (p.tail hnp).getVert n = p.getVert (n + 1) :=
+  p.notNilRec (fun _ _ ↦ by simp only [tail_cons, cons_getVert_succ]) hnp
+
+@[simp]
+lemma cons_sndOfNotNil (q : G.Walk v w) (hadj : G.Adj u v) :
+    (q.cons hadj).sndOfNotNil (not_nil_cons) = v := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:1246]:
```suggestion
    (q.cons hadj).sndOfNotNil not_nil_cons = v := by
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 16]
```diff
@@ -813,6 +830,18 @@ variable {x y : V} -- TODO: rename to u, v, w instead?
     (p.tail hp).support = p.support.tail := by
   rw [← cons_support_tail p hp, List.tail_cons]
 
+@[simp]
+lemma tail_cons {t u v} (p : G.Walk u v) (h : G.Adj t u) :
+    (p.cons h).tail Walk.not_nil_cons = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:835]:
```suggestion
    (p.cons h).tail not_nil_cons = p := by
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity.lean [hunk 17]
```diff
@@ -769,6 +780,12 @@ def notNilRec {motive : {u w : V} → (p : G.Walk u w) → (h : ¬ p.Nil) → So
   | nil => fun hp => absurd .nil hp
   | .cons h q => fun _ => cons h q
 
+@[simp]
+lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → (h : ¬ p.Nil) → Sort*}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity.lean:784]:
```suggestion
lemma notNilRec_cons {motive : {u w : V} → (p : G.Walk u w) → ¬ p.Nil → Sort*}
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by semorrison** [comment]
bors merge
